Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
diplopia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___  year-old M w/ no previously reported PMH who
presents from OSH with gait instability and mild R sided 
weakness
and imaging suggestive of significant cerebrovascular disease. 
Hx
obtained from pt at bedside and OSH chart.

Pt presented to ___ on ___, due to
difficulties with ambulation and subjective R sided weakness for
1 month. Pt also had experienced binocular horizontal diplopia
starting that previous ___. Upon admission, patient was
evaluated for potential stroke and was seen to have undiagnosed
Atrial Fibrillation, Hypertension, and Diabetes Mellitus. He was
seen to have subacute stroke in L PCA territory as well as
multiple small infarcts suggestive of microemboli as well as
microbleeds concerning for amyloid angiopathy. Due to persistent
elevated blood pressures, pt was started on BP regimen with
Amlodipine, Lisinopril, HCTZ, and Labetalol. He was also started
on Atorvastatin and insulin therapy for diabetes. Of note, on
___ pt was reported to have headache and develop n/v as well 
as
new onset facial droop (note that pt only endorses headache and
denies these other symptoms). F/u CT showed no significant
changes. Due to these new onset sx and the consideration for
anticoagulant therapy, pt was transferred to ___ for further
evaluation and management.

Pt denies any previous hx of strokes, TIAs, or other neurologic
disorders. Denies previous hx of smoking. No family history of
stroke/TIAs.

Neuro and general ROS negative except as noted above 

 
Past Medical History:
None previous, although newly diagnosed Afib, HTN, and DM

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
==============
Vitals: T: 99.4 BP; 177/109 HR: 75 RR: 18 O2sat: 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, time,
situation. Able to relate history although vague. Attentive, 
able
to name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Mild R pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5-   ___-  ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold. Decreased
proprioception in distal toes b/l, intact more proximally at
ankles. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: Mild ataxia on FNF and HTS, mild
dysdiadochokinesia. No intention tremor.

-Gait: Ataxic gait w/ broad base, unable to walk in tandem
effectively. Romberg positive. 

======================================
DISCHARGE PHYSICAL EXAMINATION: 
General: unremarkable. 
Neuro: MS normal, CN nl, Motor with 5- at R deltoid, tricep, 
WrE, FEx. No pronator drift. Orbits around R arm. Decreased 
proprioception R>L UE and at b/l toes. dysmetria with FTN and 
HTS R>L. Gait wide-based, unable to tandem. 
 
Pertinent Results:
___ 01:14PM BLOOD WBC-8.9 RBC-5.03 Hgb-14.7 Hct-45.0 MCV-90 
MCH-29.2 MCHC-32.7 RDW-12.0 RDWSD-39.2 Plt ___
___ 01:15PM BLOOD WBC-6.7 RBC-4.21* Hgb-12.1* Hct-38.9* 
MCV-92 MCH-28.7 MCHC-31.1* RDW-14.8 RDWSD-48.6* Plt ___
___ 01:14PM BLOOD ___ PTT-33.0 ___
___ 01:14PM BLOOD Glucose-143* UreaN-25* Creat-0.9 Na-137 
K-3.6 Cl-98 HCO3-27 AnGap-16
___ 01:15PM BLOOD Glucose-191* UreaN-8 Creat-0.5 Na-138 
K-3.1* Cl-102 HCO3-21* AnGap-18
___ 01:14PM BLOOD ALT-15 AST-21 AlkPhos-97 TotBili-1.0
___ 01:15PM BLOOD CRP-25.4*
___ 01:15PM BLOOD SED RATE-58     
___ 05:00AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-4* pH-5.5 Leuks-NEG
___ 05:00AM URINE RBC-1 WBC-9* Bacteri-NONE Yeast-NONE 
Epi-0

Imaging: 
___ MRI brain: 1. Again seen are multiple scattered foci of
diffusion abnormality, as described above, suggestive of acute 
to
subacute stroke, which may be embolic in origin. 
2. Multiple new focal diffusion abnormality are seen within the
right 
temporoparietal lobe, suggestive of superimposed acute
infarction. 
3. Stable numerous small foci of hemosiderin, particularly 
within
the basal ganglia and pons.  This may be microhemorrhage related
to hypertension or possibly amyloidosis. 
4. Stable additional foci of susceptibility artifact
corresponding to the diffusion abnormality in the left frontal
lobe, right parietal lobe and basal ganglia; finding is likely
related to background small foci of microhemorrhage and amyloid
angiopathy.  However, possibility of hemorrhagic conversion of
known infarction is difficult to entirely exclude. 

CXR ___: No previous images.  Low lung volumes accentuate the
transverse diameter of the cardiac silhouette.  No evidence of
vascular congestion, pleural effusion, or acute focal pneumonia. 

 
OSH Non-Contrast CT of Head:
Semiacute L PCA territory infarct and multiple bilateral, small,
old, basal ganglia lacunes, an old L centrum semiovale white
matter infarct, and an old small R cerebellar infarct. 

OSH MRI Brain w/o contrast:
1. Small foci of restricted diffusion in the right thalamus, 
right frontal white matter tracts, right posterior centrum
semiovale and subcortical mid right parietal lobe consistent 
with
small embolic shower. Extensive fluid images suggesting amyloid
angiopathy.

OSH Echo: 
EF 40 %,mild LVH,mod MR,PAP 48 mg, AI

___ MRI head w/wo contrast: 1. Evolution of multiple small 
infarctions seen on the prior examination with enhancement of 2 
right temporal lobe foci. 
2. Unchanged appearance of extensive chronic hemorrhage 
suggesting amyloid 
angiopathy. 
3. No other areas of abnormal enhancement 

 
Brief Hospital Course:
Mr. ___ was admitted after presenting to OSH with new 
diplopia and one month of difficulty using his R side. At OSH he 
was found to have new diagnoses of HTN, HLD, T2DM. OSH imaging 
showed multiple scattered embolic-appearing infarcts and 
scattered microhemorrhages, and he was transferred for further 
management. 
He was admitted to the stroke service. 
Due to lack of insurance, he remained inpatient until he 
rehabbed enough with ___ that he was able to safely be 
discharged home. 

#Multiple scattered infarcts in multiple vascular territories 
and numerous microhemorrhages: Given new diagnosis of atrial 
fibrillation, there was high concern for cardioembolic etiology 
of these infarcts. Risk/benefit of anticoagulation was 
deliberated and discussed with patient, and he was started on 
apixaban 5 mg bid. He tolerated this well thoughout his 
admission without e/o bleeding. Etiology of the microhemorrhages 
was felt to be amyloid angiopathy given characteristic 
appearance. Later in his admission this pattern was reevaluated 
and the possibility of amyloid angiitis as etiology of some 
infarcts as well as the hemorrhages was raised. Therefore he 
underwent MRI brain to evaluate for leptomeningeal enhancement, 
which is quite specific for amyloid angiitis rather than amyloid 
angiopathy. Patient was not interested in pursuing brain biopsy 
to definitively answer this question. 

#HTN: His BP was initially quite refractory, requiring maximal 
doses of three antihypertensives and therapeutic (but not 
maximal) dose of a fourth. He was eventually stabilized on 
amlodipine 10 mg daily, HCTZ 25, lisinopril 40, and labetalol 
200 bid. The labetalol was later discontinued in the setting of 
orthostatic hypotension (see below). He was discharged on the 
other three medications. 

#HLD: He was maintained on atorvastatin 80 mg qpm without any 
e/o myalgias or other AE. 

#T2DM: ___ diabetes was consulted, and followed throughout 
his admission. he was initially on metformin, which was 
gradually uptitrated to 1000mg bid. He was also initially on 
lantus at OSH, prior to starting metformin, but this was stopped 
in favor of oral therapy. He was then started on glipizide along 
with the metformin, initially at 5 mg daily. However he 
continued to intermittently skip meals while inpatient, and had 
several episodes of hyperglycemia. This was downtitrated to 2.5 
mg daily and eventually stopped and he was stabilized on 
metformin alone prior to discharge. He was given diabetes 
teaching by the ___ team. 

#Hospital Issues: Mr. ___ was noted to frequently not ask 
for drinks, though would drink things that were brought to him. 
This led to several mild episodes of prerenal azotemia and 
orthostatic hypotension during his admission, all of which 
resolved with IVF. Regimens were instituted to bring him liquids 
on a scheduled basis between meal trays as he continually did 
not ask for them. 
Mr. ___ initially told staff members that he had no family 
members whom we could contact, and 10 days into his admission, 
family members found him by calling around to different 
hospitals. His sister and brother and sister-in-law were 
subsequently involved in his care and discharge planning. ___ 
supervision was recommended by ___ on discharge, however 
patient adamantly refused this, but did concede frequent 
(multiple times per day) check-ins from family members and 
family members setting up pill box for him. 
His ambulation improved to the point of  being safe for 
discharge home, and he was discharged to home on ___

=======================================
Transitional Issues: 
[ ] reinforce medication compliance
[ ] reinforce agreement with family check-ins
[ ] monitor BP and consider adding fourth agent as needed. 

===========================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed _x0096_ () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No  
4. LDL documented? (x) Yes (LDL = 135 at OSH) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*11 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*11 
4.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*11 
5.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11 
6.  MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*11 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke
Chronic intracerebral microhemorrhages
Diabetes, type 2
Hypertension, refractory
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of right-sided weakness 
and double vision resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
You also have numerous small areas of bleeding in the brain, 
from a condition called amyloid angiopathy, which means that the 
blood vessels in your brain are weakened and more likely to 
bleed. 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High blood pressure
High cholesterol
Diabetes
Atrial fibrillation
Amyloid angiopathy
 
We are changing your medications as follows:  
Start several blood pressure medications
Start diabetes medicines
Start a blood thinner called apixaban
Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician 
as listed below.  

Check your blood sugar at least twice a day. Call your Primary 
Care Physician if your blood sugar is <70 or more than 300. 

You are going home with two weeks of your medications. Call 
financial counseling at ___ after you go home to 
discuss continuing to get free 14 day supplies of your 
medications though ___ Free Care pharmacy. They will continue to 
supply you with a 14 day courtesy fill until you're approved for 
coverage through mass health. 

Monitor your mail for an approval letter from Mass Health, and 
if/when you receive it, follow the instructions on that letter. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___